US06518293B2
(3-Isopropyl-1-methylureido)acetic acid
To a solution of 4 g of sodium hydroxide in 75 ml of water was added 10 g of sarcosine portionwise. The solution was cooled and treated with 11.5 ml of isopropyl isocyanate. After 2 h, the reaction mixture was washed with diethyl ether and the aqueous phase acidified with concentrated HCl to <pH 2. The product was extracted twice with ethyl acetate to give 10.45 g of a white solid which was taken on to the next step.

reactant | sodium hydroxide | 4 g | [OH-].[Na+]
reactant | sarcosine | 10 g | N(C)CC(=O)O | C3H7NO2
reactant | isopropyl isocyanate | 11.5 ml | C(C)(C)N=C=O | C4H7NO
solvent | water | 75 ml | O | H2O
product | (3-Isopropyl-1-methylureido)acetic acid | 10.45 g | C(C)(C)NC(N(C)CC(=O)O)=O | C7H14N2O3
